US04818276
A stirred solution of 561 g (5.0 moles) of 4-fluorophenol in 600 mL of dioxane was cooled in an ice-water bath and 831 g (5.2 moles) of bromine was added dropwise. The complete addition required 1.5 hours, during which the reaction mixture temperature was maintained at 14°-25° C. Following the addition, the ice-water bath was removed, and the reaction mixture temperature rose to 35° C. The reaction mixture was stirred for two hours, then 600 mL of water, followed by 420 mL of 10.8N aqueous sodium hydroxide were added dropwise over 30 minutes and 1 hour respectively. Upon complete addition, the reaction mixture was cooled to 0°-10° C., and 591 g (6.15 moles) of methyl chloroformate was added dropwise over four hours. Upon complete addition, the reaction mixture was allowed to warm to ambient temperature and was stirred for 17 hours. After this time, 450 g of aqueous 50% sodium hydroxide was added to neutralize the reaction mixture. The resultant solid was collected by filtration, and the filter cake washed with two 500 mL portions of water. The solid was dried under reduced pressure to give 1211 g of 2-bromo-4-fluorophenyl methyl carbonate; m.p. 75°-78° C.

reactant | 4-fluorophenol | 5.0 moles, 561 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | bromine | 5.2 moles, 831 g | BrBr | Br2
reactant | methyl chloroformate | 6.15 moles, 591 g | ClC(=O)OC | C2H3ClO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dioxane | 600 mL | O1CCOCC1 | C4H8O2
product | 2-bromo-4-fluorophenyl methyl carbonate | 1211 g | C(OC1=C(C=C(C=C1)F)Br)(OC)=O | C8H6BrFO3
